US06770778B2
The product of Example 1, methyl 4-[[2,3-difluoro-6-[[(2-hydroxyethoxy)amino]carbonyl]phenyl]amino]benzoate (306 mg, 0.84 mmol), was dissolved in ethanol (40 mL), to which was added 1 M NaOH solution (40 mL). This mixture was stirred at room temperature for 15 hours, then poured into 1 M HCl solution (100 mL). The resulting precipitate was extracted with EtOAc (3×80 mL) and the combined EtOAc extracts then combined and washed with water (2×100 mL) and saturated NaCI (100 mL). The organic fraction was dried (Na2SO4), the solvent removed under reduced pressure, and the resulting residue purified by column chromatography on flash silica (50% EtOAc/hexanes as eluant) to afford 4-[[2,3-difluoro-6-[[(2-hydroxyethoxy)amino]carbonyl]-phenyl]amino]benzoic acid as a crystalline white solid (168 mg, 57%); mp (EtOAc/hexanes) 180-183° C. 1H NMR [400 MHz, (CD3)2SO] δ 11.89 (br s, 2 H), 8.75 (br s, 1 H), 7.75 (d, J=8.8 Hz, 2 H), 7.41-7.25 (m, 2 H), 6.79 (dd, J=8.6, 1.7 Hz, 2 H), 4.76 (br s, 1 H), 3.76 (t, J=4.8 Hz, 2 H), 3.50 (t, J=4.8 Hz, 2 H). Anal. Calcd for C16H14F2N2O5: C, 54.5; H, 4.0; N, 8.0. Found C, 54.8; H, 3.9; N, 8.0.

reactant | methyl 4-[[2,3-difluoro-6-[[(2-hydroxyethoxy)amino]carbonyl]phenyl]amino]benzoate | 0.84 mmol, 306 mg | FC1=C(C(=CC=C1F)C(=O)NOCCO)NC1=CC=C(C(=O)OC)C=C1 | C17H16F2N2O5
reactant | NaOH | 1 M, 40 mL | [OH-].[Na+]
reactant | HCl | 1 M, 100 mL | Cl | ClH
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | 4-[[2,3-difluoro-6-[[(2-hydroxyethoxy)amino]carbonyl]-phenyl]amino]benzoic acid | 168 mg, 57% | FC1=C(C(=CC=C1F)C(=O)NOCCO)NC1=CC=C(C(=O)O)C=C1 | C16H14F2N2O5
